US03998954
A mixture of homophthalic acid (45.0 g., 0.25 mole) and m-chloroaniline (31.8 g., 0.25 mole) was heated by an oil bath to 175°-180° C. for two hours. When removed from the oil bath, the reaction mixture solidified and was recrystallized twice from ethanol/ethyl acetate, giving 2-(m-chlorophenyl)-isoquinoline-1,3 (2H, 4H)-dione, 36.0 g. (58% yield), m.p. 160°-161° C.

reactant | homophthalic acid | 0.25 mole, 45.0 g | C(CC=1C(C(=O)O)=CC=CC1)(=O)O | C9H8O4
reactant | m-chloroaniline | 0.25 mole, 31.8 g | ClC=1C=C(N)C=CC1 | C6H6ClN
product | 2-(m-chlorophenyl)-isoquinoline-1,3 (2H, 4H)-dione | 58% yield | ClC=1C=C(C=CC1)N1C(C2=CC=CC=C2CC1=O)=O | C15H10ClNO2
